US03953430
Preparation of 4,9-Dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
A mixture of 0.5 g. of 1,3,4,9-tetrahydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and 0.5 g. of sulfur is fused at 160°C. ± 5 for 1 hour. The fusion mixture is slurried with chloroform and filtered. The filtrate is chromatographed on silica gel with benzene:methanol 9:1 to give a solid, which is recrystallized from methanol-water to give a tan solid, m.p. 224°-225°C. (dec.).

reactant | 1,3,4,9-tetrahydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C2=C(C(NC3=C1C=CC=C3)=O)CSC2 | C12H12N2OS
reactant | sulfur | [S] | S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,9-Dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
